US05563141
2-[4-[2-[4-(4-Pyridyl)piperazin-1-yl]acetyl]phenoxy]-N-(phenylmethyl)acetamide
A solution of 2-[4-(bromoacetyl)phenoxy]-N-(phenylmethyl)acetamide (1.40 g) (preparation described in EPO 052442) in acetonitrile (5 ml) was added to a stirred solution of 1-(4-pyridyl)piperazine (1.14 g) in acetonitrile (20 ml). After stirring overnight the liquors were decanted from the residual gum, then concentrated in vacuo. Purification by flash chromatography on silica, eluting with 2 to 5% v/v methanol/dichloromethane, gave a solid. Trituration of this solid with diethyl ether gave the title compound, 95 mg: m.p. 150°-151° C.; NMR (d6DMSO) δ8.67 (1H, bt), 8.15 (2H, d), 8.00 (2H, d), 7.26 (SH, m), 7.06 (2H, d), 6.81 (2H, d), 4.66 (2H, s), 4.34 (2H, d), 3.84 (2H, s), 3.33 (4H, t), 2.54 (4H, t); m/e 445 (M+H)+ ; calculated for C26H28N4O3. 0.25H2O: C, 69.5; H, 6.4; 12.5. found: C, 69.6; H, 6.4; N, 12.3%.

reactant | 2-[4-(bromoacetyl)phenoxy]-N-(phenylmethyl)acetamide | 1.40 g | BrCC(=O)C1=CC=C(OCC(=O)NCC2=CC=CC=C2)C=C1 | C17H16BrNO3
reactant | 1-(4-pyridyl)piperazine | 1.14 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[4-[2-[4-(4-Pyridyl)piperazin-1-yl]acetyl]phenoxy]-N-(phenylmethyl)acetamide | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)NCC2=CC=CC=C2)C=C1 | C26H28N4O3
